US07067517B2
4-(Methyl-phenyl-carbamoyloxy)-benzoic acid 2,5-dioxo-pyrrolidin-1-yl ester
The title product was prepared from 4-Hydroxy-benzoic acid 2,5-dioxo-pyrrolidin-1-yl ester and N-methyl-N-phenylcarbamoyl chloride. The crude product was recrystallized from methanol (74%, white crystals).

reactant | 4-Hydroxy-benzoic acid 2,5-dioxo-pyrrolidin-1-yl ester | O=C1N(C(CC1)=O)OC(C1=CC=C(C=C1)O)=O | C11H9NO5
reactant | N-methyl-N-phenylcarbamoyl chloride | CN(C(=O)Cl)C1=CC=CC=C1 | C8H8ClNO
product | 4-(Methyl-phenyl-carbamoyloxy)-benzoic acid 2,5-dioxo-pyrrolidin-1-yl ester | O=C1N(C(CC1)=O)OC(C1=CC=C(C=C1)OC(N(C1=CC=CC=C1)C)=O)=O | C19H16N2O6
